US03998835
30 g of (R)-glyceraldehyde, 36 cc of tert. butylamine in 800 cc of ethanol are hydrogenated over 8 g of 10 % palladium/carbon with H2 for 4 hours, the catalyst is filtered off and the solution is concentrated. (S)-1-tert.butylamino-2,3-dihydroxy-propane is obtained from ethyl acetate/ether (2:1) in the form of crystals having a M.P. of 76°-81°. [α] 20546 = -11.8° (c = 2.0; methanol).

reactant | (R)-glyceraldehyde | 30 g | O=C[C@H](O)CO | C3H6O3
reactant | tert. butylamine | 36 cc | C(C)(C)(C)N | C4H11N
solvent | ethanol | 800 cc | C(C)O | C2H6O
catalyst | palladium/carbon | 8 g | [Pd] | Pd
product | (S)-1-tert.butylamino-2,3-dihydroxy-propane | C(C)(C)(C)NC[C@@H](CO)O | C7H17NO2
